US07622471B2
1) 3-Fluoro-4-phenyl-2,4-dioxobutanoic acid ethyl ester
1.0 M Lithium bis(trimethylsilyl)amide in tetrahydrofuran (13 mL) was added dropwise to α-fluoroacetophenone (1.64 g) in tetrahydrofuran (35 mL) at α-78° C., followed by stirring for 45 minutes. Diethyl oxalate (1.77 mL) was added to the reaction mixture, followed by stirring for 30 minutes. The mixture was further stirred at 0° C. for 1 hour. The resultant mixture was neutralized with 1M aqueous solution of hydrochloric acid. The reaction mixture was partitioned between water and chloroform. Subsequently, the aqueous layer was extracted with chloroform. The organic layers were combined, and washed with saturated brine, and then dried over sodium sulfate anhydrate. The mixture was subjected to filtration, and the solvent was evaporated under reduced pressure, to thereby give 3-fluoro-4-phenyl-2,4-dioxobutanoic acid ethyl ester as an oily substance (0.753 g, 27%).

reactant | Lithium bis(trimethylsilyl)amide | 1.0 M | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | α-fluoroacetophenone | 1.64 g | FCC(=O)C1=CC=CC=C1 | C8H7FO
reactant | Diethyl oxalate | 1.77 mL | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 13 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 35 mL | O1CCCC1 | C4H8O
product | 3-Fluoro-4-phenyl-2,4-dioxobutanoic acid ethyl ester | C(C)OC(C(C(C(=O)C1=CC=CC=C1)F)=O)=O | C12H11FO4
